US07625888B2
Step A: 4-Chloro-2-phenyl-1H-imidazo[4,5-c]pyridine
A mixture of 100 mg (0.696 mmol) of 2-chloropyridine-3,4-diamine [H. Dvorakova et al., Collect. Czech. Chem. Commun., 58, 629 (1993)], 0.086 mL (0.835 mmol) of benzaldehyde, and 2 mL of nitrobenzene was heated at 175° C. under microwave irradiation for 30 min. The cooled solution was treated with 500 mg of Montmorillonite K 10 clay, and microwave irradiation at 175° C. was continued for an additional 30 min. The cooled mixture was filtered through Celite, and the filter cake was washed with methanol. The combined filtrate and washings were concentrated to dryness. Flash chromatography of the residue on silica gel (0-5% methanol in dichloromethane) yielded the title compound as a foam. LC-MS 230 (M+1).

reactant | 2-chloropyridine-3,4-diamine | 0.696 mmol, 100 mg | ClC1=NC=CC(=C1N)N | C5H6ClN3
reactant | benzaldehyde | 0.835 mmol, 0.086 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | nitrobenzene | 2 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | Montmorillonite K 10 | 500 mg | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
product | 4-Chloro-2-phenyl-1H-imidazo[4,5-c]pyridine | ClC1=NC=CC2=C1N=C(N2)C2=CC=CC=C2 | C12H8ClN3
